US07834063B2
4-[{2-[(4-Cyanophenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C using 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-cyanophenol: 1H NMR (300 MHz, CD3OD) δ 7.74 (d, J=8.8 Hz, 1H), 7.61 (app. d, J=8.8 Hz, 2H), 7.37 (d, J=2.1 Hz, 1H), 7.27 (dd, J=8.9, 2.4 Hz, 1H), 7.02 (app. d, J=8.8 Hz, 2H), 4.43 (q, J=8.9 Hz, 2H), 4.31 (t, J=5.2 Hz, 2H), 4.08 (t, J=5.1 Hz, 2H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
product | 4-[{2-[(4-Cyanophenyl)oxy]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | C(#N)C1=CC=C(C=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C19H13F6N3O
